US07550474B2
i. 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethylamine
A solution of 2-(2-Azido-1,1-difluoro-ethyl)-5-methyl-pyridine (2.46 g, 12.42 mol), as prepared in the previous step, in EtOAc (150 mL) was treated with 2.46 g, 10 wt. % Pd—C under a H2 atmosphere. After 24 h, the reaction was filtered through Celite and the filtrate concentrated to afford the product as a clear yellow oil (1.85 g, 10.76 mmol, 86% crude yield). 1H NMR (300 Hz, CDCl3) δ 8.48 (s, 1H), 7.61 (m, 2H), 3.42 (t, J=14.2 Hz), 2.39 (s, 3H); LC/MS (m/z) [M+1]+ 173.0 (calculated for C8H11F2N2, 173.2).

reactant | 2-(2-Azido-1,1-difluoro-ethyl)-5-methyl-pyridine | 12.42 mol, 2.46 g | N(=[N+]=[N-])CC(F)(F)C1=NC=C(C=C1)C | C8H8F2N4
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | [Pd] | Pd
product | 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethylamine | 10.76 mmol, 1.85 g | FC(CN)(C1=NC=C(C=C1)C)F | C8H10F2N2
